US07723368B2
Step 1) 3-[3-(4-Difluoromethoxy-phenylethynyl)-phenyl]-cyclobutanol
3-[3-(4-Difluoromethoxy-phenylethynyl)-phenyl]-cyclobutanone (0.834 g, 2.67 mmol) was dissolved in methanol (100 ml) and chilled in an ice bath. After 20 minutes sodium borohydride (0.159 gm, 4.02 mmol) was added and stirring was continued for another 20 minutes. Water (2 ml) was added and stirring was continued for another 20 minutes The reaction was concentrated by rotary evaporation and partitioned between water and dichloromethane. The organic layer was dried with magnesium sulfate and concentrated to an oil 845 mg (quant); 1H NMR (400 MHz, DMSO-d6) δ ppm 1.65-1.92 (m, 2H) 2.47-2.64 (m, 2H) 2.68-2.91 (m, 1H) 3.87-4.09 (m, 1H) 5.03 (d, J=7.4 Hz, 1H) 7.03 (d, J=2.6 Hz, 1H) 7.18 (d, J=8.8 Hz, 2H) 7.21-7.25 (m, 1H) 7.27-7.32 (m, 2H) 7.38 (s, 1H) 7.58 (d, J=8.8 Hz, 2H).

reactant | 3-[3-(4-Difluoromethoxy-phenylethynyl)-phenyl]-cyclobutanone | 2.67 mmol, 0.834 g | FC(OC1=CC=C(C=C1)C#CC=1C=C(C=CC1)C1CC(C1)=O)F | C19H14F2O2
reactant | sodium borohydride | 4.02 mmol, 0.159 gm | [BH4-].[Na+]
reactant | Water | 2 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 3-[3-(4-Difluoromethoxy-phenylethynyl)-phenyl]-cyclobutanol | FC(OC1=CC=C(C=C1)C#CC=1C=C(C=CC1)C1CC(C1)O)F | C19H16F2O2
